data/pmechdb/original/mc_train_fold0/raw/train.txt
C[C:20](=[O:21])Cl.[CH2:10]=[CH:11][O-:12]>>C[C:20]([CH2:10][CH:11]=[O:12])([O-:21])Cl 10,11=10,20;20,21=21;12=11
CCC(CO)[NH2:10].C1=CC=C(C=C1)C(=O)[CH2:20][Br:21]>>CCC(CO)[NH2+:10][CH2:20]C(=O)C1=CC=CC=C1.[Br-:21] 10=20;20,21=21
[B-:10]([O+](C)C1=C2C3=C(CC4C5(C3(CCN4CC)C(O2)C(=O)CC5)O)C=C1)(Br)(Br)[Br:11]>>[B:10]([O+](C)C1=C2C3=C(CC4C5(C3(CCN4CC)C(O2)C(=O)CC5)O)C=C1)(Br)Br.[Br-:11] 10,11=11
C[C:21](=[CH2:20])[CH:22]=[O:23].CO[C:11](=[C:10]1CCCC1=O)[O-:12]>>C[C:21](=[CH:22][O-:23])[CH2:20][C:10]1(CCCC1=O)[C:11](=[O:12])OC 10,11=10,20;12=11;22,23=23;20,21=21,22
[H:20][NH+:21](C)NC(=O)C1C(C=CC(C1CCCC#N)O)CC.C(=O)([O-:10])O[K].[K+].[I-]>>[H:20][O:10]C(=O)O[K].CCC1C=CC(C(C1C(=O)N[NH:21]C)CCCC#N)O.[K+].[I-] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.[CH2:10]=[CH:11]CCC1=CC=CC=C1>>[H:20][CH2:10][CH+:11]CCC1=CC=CC=C1.OS(=O)(=O)[O-:21] 10,11=10,20;20,21=21
[H:20][CH:21]1CC(C[C+:22]1C)CC.[OH2:10]>>[H:20][OH2+:10].CCC1C[CH:21]=[C:22](C1)C 10=20;20,21=21,22
C[C+:20]=O.C1=CO[CH:10]=[CH:11]1>>C[C:20](=O)[CH:10]1[CH+:11]C=CO1 10,11=10,20
C=C[CH:10](C1=CC=CC=C1)[Br:11]>>C=C[CH+:10]C1=CC=CC=C1.[Br-:11] 10,11=11
CCC(=O)O[C:11]1=[CH:10]C=CC=C1.[Br:20][Br:21]>>CCC(=O)O[C+:11]1C=CC=C[CH:10]1[Br:20].[Br-:21] 10,11=10,20;20,21=21
[H:20][OH2+:21].CCNC[CH:10]=[C:11](NCC)[O-:12]>>[H:20][CH:10](CNCC)[C:11](=[O:12])NCC.[OH2:21] 10,11=10,20;20,21=21;12=11
CC(C)(C)[Si](C)(C)OC1CC(OC(C1)CC(CC=C)O)CC2=C(C(=CC=C2)OC)C(=O)[O-:10].C1CCC(CC1)[NH+:21]=[C:20]=NC2CCCCC2.CN(C)C1=CC=[NH+]C=C1>>CC(C)(C)[Si](C)(C)OC1CC(OC(C1)CC(CC=C)O)CC2=C(C(=CC=C2)OC)C(=O)[O:10][C:20](=NC3CCCCC3)[NH:21]C4CCCCC4.CN(C)C1=CC=[NH+]C=C1 10=20;20,21=21
CO[C:20](=[O:21])O.[Cl-:10]>>CO[C:20](O)([O-:21])[Cl:10] 10=20;20,21=21
[H:20][Cl:21].C1COC([O:10]1)C2=C(N=CS2)Cl.C1CCOC1.C1COCCO1.O>>[H:20][O+:10]1CCOC1C2=C(N=CS2)Cl.[Cl-:21].C1CCOC1.C1COCCO1.O 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.C[C:10](=[CH:11]C1=CC=CC=C1)C>>[H:20][C:10](C)(C)[CH+:11]C1=CC=CC=C1.OS(=O)(=O)[O-:21] 10,11=10,20;20,21=21
[H:20][C:21]12C=CC=C[C+:22]1CCC2C.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC1CC[C:22]2=[C:21]1C=CC=C2 10=20;20,21=21,22
C[C+:20](C)CCCO.[Br-:10]>>C[C:20](C)(CCCO)[Br:10] 10=20,
[H:20][OH:21].CCC1CCC(C1[O-:10])C>>[H:20][O:10]C1C(CCC1CC)C.[OH-:21] 10=20;20,21=21
C[P+:11](C)(C)[Mg:10]I>>C[P:11](C)C.[Mg+:10]I 10,11=11
[H:20][C:21]1([CH+:22]C(=CO1)C)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC1=CO[C:21](=[CH:22]1)[N+](=O)[O-] 10=20;20,21=21,22
[B:20](F)(F)F.CCCCC1CC1(C(C2=CC=CC=C2)[OH:10])O>>[B-:20]([OH+:10]C(C1=CC=CC=C1)C2(CC2CCCC)O)(F)(F)F 10=20,
[H:20][C:21]1(C=C(C=C[C+:22]1NC(=O)CC)Br)Br.[Br-:10]>>[H:20][Br:10].CCC(=O)N[C:22]1=[C:21](C=C(C=C1)Br)Br 10=20;20,21=21,22
[H:20][O:21]CC#C.[NH2-:10]>>[H:20][NH2:10].C#CC[O-:21] 10=20;20,21=21
[H:20][CH2:21][S+](C)OCC1=CC=C2C(=C1OC)C(=O)C3=C(C=CC=C3C2=O)OC.C(=O)(O)[O-:10].[Br-]>>[H:20][O:10]C(=O)O.COC1=C2C(=CC=C1)C(=O)C3=CC=C(C(=C3C2=O)OC)CO[S+](C)[CH2-:21].[Br-] 10=20;20,21=21
CC1CN(C2C1CCC([C:20]2=[O:21])Br)S(=O)(=O)C3=CC=C(C=C3)C.[C-:10]#N.C[OH+][K]>>CC1CN(C2C1CCC([C:20]2([C:10]#N)[O-:21])Br)S(=O)(=O)C3=CC=C(C=C3)C.C[OH+][K] 10=20;20,21=21
C[Si](C)(C)C(=C=C)C(CCC1CCCC[C:20]1=[O+:21][Na])[O-:10].B1(C2CCCC1CCC2)O>>C[Si](C)(C)C(=C=C)C1CCC2CCCC[C:20]2([O:10]1)[O:21][Na].B1(C2CCCC1CCC2)O 10=20;20,21=21
[H:20][CH:21]1[C:22](=[NH+:23]C2=C1C(=O)CCC2)C.CC(=O)[O-:10].O>>[H:20][O:10]C(=O)C.C[C:22]1=[CH:21]C2=C([NH:23]1)CCCC2=O.O 10=20;22,23=23;20,21=21,22
C[CH:20]=[OH+:21].C[OH:10]>>C[CH:20]([OH:21])[OH+:10]C 10=20;20,21=21
CC[C:20](=[O:21])Cl.C1C([N-:10]C(=O)O1)CC2=CC=CC=C2.[Li+].CCCC>>CC[C:20]([N:10]1C(COC1=O)CC2=CC=CC=C2)([O-:21])Cl.[Li+].CCCC 10=20;20,21=21
[H:20][CH2:21][N+](=O)[O-].C[O:10][Na].CC(C)(C)OC(=O)N1CCC(C1C(=O)OC)OC2=CC=C(C=C2)C=O>>[H:20][O+:10](C)[Na].[CH2-:21][N+](=O)[O-].CC(C)(C)OC(=O)N1CCC(C1C(=O)OC)OC2=CC=C(C=C2)C=O 10=20;20,21=21
[CH:10]1=[CH:11][CH:12]=[C:13](C=C1)CBr.[N+:20](=O)=[O:21]>>C1=C[C+:13]([CH:12]=[CH:11][CH:10]1[N+:20](=O)[O-:21])CBr 10,11=10,20;20,21=21;12,13=11,12
CC#[N:10].F[Cu:20]F>>CC#[N+:10][Cu-:20](F)F 10=20,
[H:20][N+:21](C)(C)C.CO[P:10](OC)Cl>>[H:20][P+:10](OC)(OC)Cl.C[N:21](C)C 10=20;20,21=21
[H:20][N:21]1C=NN=N1.CC1=CN(C(=O)NC1=O)C2CC(C(O2)COC(C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5)O[P:10](N(C(C)C)C(C)C)OCCC#N.CC1C(CC(O1)N2C=C(C(=O)NC2=O)C)O>>[H:20][P+:10](N(C(C)C)C(C)C)(OCCC#N)OC1CC(OC1COC(C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)N5C=C(C(=O)NC5=O)C.C1=NN=N[N-:21]1.CC1C(CC(O1)N2C=C(C(=O)NC2=O)C)O 10=20;20,21=21
C[S+](=O)(C)[CH2-:10].[CH2:20]=[O:21]>>C[S+](=O)(C)[CH2:10][CH2:20][O-:21] 10=20;20,21=21
[H:20][OH2+:21].CCC(C)(C(C)OCC)[O-:10]>>[H:20][O:10]C(C)(CC)C(C)OCC.[OH2:21] 10=20;20,21=21
C[C+:20]=O.CC(C)(C)[C:13]1=[CH:12][CH:11]=[CH:10]C=C1>>C[C:20](=O)[CH:10]1C=C[C+:13]([CH:12]=[CH:11]1)C(C)(C)C 10,11=10,20;12,13=11,12
[H:20][O:21]C(=O)C.CC(=O)OCC1C2C(C(C(O1)OCC=C)OC(=O)C)[O:10]C(O2)(C)C.O>>[H:20][O+:10]1C2C(C(OC(C2OC(=O)C)OCC=C)COC(=O)C)OC1(C)C.CC(=O)[O-:21].O 10=20;20,21=21
[H:20][C:21]1(C(=O)CC[C:22]1=[O:23])C.[NH2-:10]>>[H:20][NH2:10].C[C:21]1=[C:22](CCC1=O)[O-:23] 10=20;22,23=23;20,21=21,22
